US07323475B2
a) 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid
A mixture of 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester (3.52 g, 8.45 mmol; Example A-65 e) aqueous 2N NaOH (50 ml, 100 mmol) and EtOH (50 ml) was refluxed with stirring for 2 h. Then the solution was concentrated in vacuo to ½ of its volume, diluted with water (180 ml), and was acidified by addition of aqueous 6N HCl (20 ml). After stirring at ambient temperature for 30 min the resulting suspension was submitted to vacuum filtration. The filter cake was washed thoroughly with water and dried in vacuo at 70° C. to give the title compound as a white solid (3.05 g); 1H NMR (DMSO-d6): δ=8.33 (d, 1H), 7.20 to 7.61 (m, 7H).

reactant | 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 8.45 mmol, 3.52 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=CC=C1)Br | C20H18BrNO4
reactant | NaOH | 100 mmol, 2N, 50 ml | [OH-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid | 3.05 g | BrC1=NC(=C(C2=CC=C(C=C12)OC1=CC=CC=C1)O)C(=O)O | C16H10BrNO4
